US06492370B1
(2S)-2-[3-[2-(Acetylthio)ethyl]-3-(2-cyclohexylethyl)ureido]propionic Acid (Compound No. 7-1)
A 4.0 N hydrogen chloride/dioxane solution (14 ml) is added to t-butyl (2S)-2-[3-[2-(acetylthio)ethyl]-3-(2-cyclohexylethyl)ureido]propionate (Compound No. 5-1, 2.3 g), and the mixture is stirred at room temperature overnight. The reaction mixture is concentrated under reduced pressure, to the resulting oily matter are added a 5% aqueous sodium hydrogencarbonate solution (30 ml) and ethyl acetate (30 ml), and the aqueous layer is separated from the organic layer. A 5% aqueous citric acid solution is added to the aqueous layer to acidify it, and the whole is extracted with ethyl acetate. The organic layer is washed with water and saturated brine successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting oily matter is purified by silica gel column chromatography to give 826 mg (42%) of the titled compound (Compound No. 7-1) as crystals.

reactant | hydrogen chloride dioxane | 4.0 N, 14 ml | Cl.O1CCOCC1
reactant | t-butyl (2S)-2-[3-[2-(acetylthio)ethyl]-3-(2-cyclohexylethyl)ureido]propionate | 2.3 g | C(C)(=O)SCCN(C(N[C@H](C(=O)OC(C)(C)C)C)=O)CCC1CCCCC1 | C20H36N2O4S
product | (2S)-2-[3-[2-(Acetylthio)ethyl]-3-(2-cyclohexylethyl)ureido]propionic Acid | 826 mg, 42% | C(C)(=O)SCCN(C(N[C@H](C(=O)O)C)=O)CCC1CCCCC1 | C16H28N2O4S
